US07153855B2
In a similar manner as described in Example 46 from 1-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (1.0 g, 2.8 mmol), N-cyclopentylguanidine hydrochloride and sodium ethoxide (4.1 mL, 21 wt % in ethanol, 3.6 mmol) at room temperature was obtained 4-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (0.60 g, 46%) as a yellow crystalline solid. MS m/z 469 (M+1).

reactant | 1-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 2.8 mmol, 1.0 g | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2Cl)=C1C(C#C)=O | C16H8BrClN2O
reactant | N-cyclopentylguanidine hydrochloride | Cl.C1(CCCC1)NC(=N)N
reactant | sodium ethoxide | 3.6 mmol, 4.1 mL | [O-]CC.[Na+]
product | 4-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.60 g, 46% | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2Cl)=C1C1=NC(=NC=C1)NC1CCCC1 | C22H19BrClN5
